### PR TITLE
chore: Move arith verifier to `Arith/` folder

### PR DESCRIPTION
**Pull request by math-fehr**
This is part of the plan of making all verifiers depend on an arbitrary `OpInfo` instead of `OpCode`.

### CODE REVIEW

File: Veir/Verifier.lean [hunk 1]
```diff
@@ -1086,7 +1017,8 @@ theorem OperationPtr.Verified.arith_constant {op : OperationPtr} {opInBounds}
     op.getNumRegions! ctx.raw = 0 ∧
     ((op.getResult 0).get! ctx.raw).type =
       ⟨(op.getProperties! ctx.raw Arith.constant).value.type, (by grind)⟩ := by
-  simp only [Verified, verifyLocalInvariants, ← getOpType!_eq_getOpType, opType, ne_eq,
+  simp only [Verified, verifyLocalInvariants, Arith.verifyLocalInvariants,
+    ← getOpType!_eq_getOpType, opType, ne_eq,
```
Comment (tobiasgrosser) [inline Veir/Verifier.lean:1021]: I am curious, should these theorems not also be moved to the `Arith/` folder?

Comment (math-fehr) [reply Veir/Verifier.lean:1021]: That's my plan, but I can do this only after moving the verifier to `OpInfo`.
The issue is that there is no `verifyLocalInvariants` in the `HasOpInfo`. To add this function, we need to first move the verifiers to their dialect folder.
So the order is going to be :
1) Moving the dialect verifiers to `OpInfo`
2) Adding `verifyLocalInvariants` to `HasOpInfo`
3) Moving these theorems to their respective dialects

**Review by tobiasgrosser — APPROVED** [review]
